US08912186B2
To a solution of commercial 2-bromobenzaldehyde (5 g) in ethyl acetoacetate (7 g) piperidine (0.5 ml) was added with stirring at rt. The cloudy solution was kept at rt for 3 d. The yellowish amorphous solid (the bis-adduct of acetoacetate to the benzaldehyde) was dissolved in ethanol (20 ml). This solution was added in portions to 40% NaOH (150 g) with stirring. The resulting orange slurry was stirred at reflux for 2 h. After cooling in an ice bath the now yellowish mixture was acidified by portionwise addition of conc. HCl (150 ml) to give a white, partly resinous precipitate. The solid was collected by suction filtration and washed with water. After drying in vacuo 3-(2-bromophenyl)glutaric acid (5.7 g) was obtained. The suspension of finely divided 3-(2-bromophenyl)glutaric acid in acetyl chloride (7 ml) was heated to reflux with stirring for 1 h. After cooling to rt precipitation was induced by addition of petrol ether (50 ml). From the oily precipitate the mother liquor was removed by decantation and the residue was dried in vacuo to afford 3-(2-bromophenyl)glutaric anhydride (4.6 g) as light yellow solid in sufficient purity.

reactant | 2-bromobenzaldehyde | 5 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | acetoacetate | C(CC(=O)C)(=O)[O-]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | 150 g | [OH-].[Na+]
reactant | HCl | 150 ml | Cl | ClH
reactant | 3-(2-bromophenyl)glutaric acid | BrC1=C(C=CC=C1)C(CC(=O)O)CC(=O)O | C11H11BrO4
solvent | ethyl acetoacetate | 0.5 ml, 7 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetyl chloride | 7 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(2-bromophenyl)glutaric anhydride | 4.6 g | BrC1=C(C=CC=C1)C1CC(=O)OC(C1)=O | C11H9BrO3
